** sch_path: /foss/designs/analog-perceptron-gf180mcu/schematics/perceptron.sch
.subckt perceptron VDD V_shift I_x1 I_x2 V_out_perceptron V_w1 V_w2 VSS V_b
*.PININFO VDD:B VSS:B I_x1:I I_x2:I V_w1:I V_w2:I V_b:I V_out_perceptron:O V_shift:I
x1 V_1_25 net2 V_1_25 I_x1 VSS cg_amp_tia
x2 V_1_25 net1 V_1_25 I_x2 VSS cg_amp_tia
x_g1 V_o_p V_o_n V_w1 V_1_65 V_1_25 net2 V_1_65 VSS gilbert_multiplier_current
x_g2 V_o_p V_o_n V_w2 V_1_65 V_1_25 net1 V_1_65 VSS gilbert_multiplier_current
x_g3 V_o_p V_o_n V_b V_1_65 V_1_25 V_1_15 V_1_65 VSS gilbert_multiplier_current
x_tanh VDD V_1_65 V_out_perceptron V_o_p V_o_n V_0_7 VSS tanh_ota
XR1 V_o_p V_shift VSS ppolyf_u_1k r_width=3e-6 r_length=7.3e-6
XR2 VDD V_o_n VSS ppolyf_u_1k r_width=3e-6 r_length=7.3e-6
x3 VDD V_1_65 V_1_25 V_1_15 V_0_7 VSS voltage_reference
.ends

* expanding   symbol:  analog-perceptron-gf180mcu/schematics/cg_amp_tia.sym # of pins=5
** sym_path: /foss/designs/analog-perceptron-gf180mcu/schematics/cg_amp_tia.sym
** sch_path: /foss/designs/analog-perceptron-gf180mcu/schematics/cg_amp_tia.sch
.subckt cg_amp_tia V_ref V_out V_bias I_in VSS
*.PININFO V_ref:B VSS:B I_in:I V_bias:I V_out:O
M1 V_out V_bias I_in VSS nfet_03v3 L=0.5u W=5u nf=1
XR1 V_out V_ref VSS ppolyf_u_1k r_width=3e-6 r_length=8.1e-6
.ends


* expanding   symbol:  analog-perceptron-gf180mcu/schematics/gilbert_multiplier_current.sym # of pins=8
** sym_path: /foss/designs/analog-perceptron-gf180mcu/schematics/gilbert_multiplier_current.sym
** sch_path: /foss/designs/analog-perceptron-gf180mcu/schematics/gilbert_multiplier_current.sch
.subckt gilbert_multiplier_current I_o_p I_o_n V_w_p V_w_n V_x_p V_x_n V_tail VSS
*.PININFO V_x_p:I V_x_n:I V_tail:I VSS:B V_w_p:I V_w_n:I I_o_n:O I_o_p:O
M1 net1 V_x_p net3 VSS nfet_03v3 L=0.5u W=10u nf=1
M2 net2 V_x_n net4 VSS nfet_03v3 L=0.5u W=10u nf=1
M3 I_o_n V_w_p net1 VSS nfet_03v3 L=0.5u W=10u nf=1
M4 I_o_p V_w_n net1 VSS nfet_03v3 L=0.5u W=10u nf=1
M5 I_o_n V_w_n net2 VSS nfet_03v3 L=0.5u W=10u nf=1
M6 I_o_p V_w_p net2 VSS nfet_03v3 L=0.5u W=10u nf=1
M7 net3 V_tail VSS VSS nfet_03v3 L=1u W=5u nf=1
M8 net4 V_tail VSS VSS nfet_03v3 L=1u W=5u nf=1
XR1 net3 net4 VSS ppolyf_u_1k r_width=3e-6 r_length=46.2e-6
.ends


* expanding   symbol:  analog-perceptron-gf180mcu/schematics/tanh_ota.sym # of pins=7
** sym_path: /foss/designs/analog-perceptron-gf180mcu/schematics/tanh_ota.sym
** sch_path: /foss/designs/analog-perceptron-gf180mcu/schematics/tanh_ota.sch
.subckt tanh_ota VDD V_ref V_out V_in_p V_in_n V_bias VSS
*.PININFO VDD:B VSS:B V_in_p:I V_in_n:I V_bias:I V_out:O V_ref:B
M1 net2 V_in_p net1 VSS nfet_03v3 L=0.5u W=10u nf=1
M2 V_out V_in_n net1 VSS nfet_03v3 L=0.5u W=10u nf=1
M3 net1 V_bias VSS VSS nfet_03v3 L=0.5u W=10u nf=1
M4 net2 net2 VDD VDD pfet_03v3 L=0.5u W=20u nf=1
M5 V_out net2 VDD VDD pfet_03v3 L=0.5u W=20u nf=1
XR1 V_out V_ref VSS ppolyf_u_1k r_width=3e-6 r_length=74.4e-6
.ends


* expanding   symbol:  analog-perceptron-gf180mcu/schematics/voltage_reference.sym # of pins=6
** sym_path: /foss/designs/analog-perceptron-gf180mcu/schematics/voltage_reference.sym
** sch_path: /foss/designs/analog-perceptron-gf180mcu/schematics/voltage_reference.sch
.subckt voltage_reference VDD v_1_65 v_1_25 v_1_15 v_0_7 VSS
*.PININFO VDD:B VSS:B v_1_65:O v_1_15:O v_0_7:O v_1_25:O
XR1 V_I_1_65 VDD VSS ppolyf_u_1k r_width=3e-6 r_length=165e-6
XR2 V_I_1_25 V_I_1_65 VSS ppolyf_u_1k r_width=3e-6 r_length=40e-6
XR3 V_I_1_15 V_I_1_25 VSS ppolyf_u_1k r_width=3e-6 r_length=10e-6
XR4 V_I_0_7 V_I_1_15 VSS ppolyf_u_1k r_width=3e-6 r_length=45e-6
XR5 VSS V_I_0_7 VSS ppolyf_u_1k r_width=3e-6 r_length=70e-6
M11 net2 V_pbias VDD VDD pfet_03v3 L=1u W=20u nf=1
M12 net1 V_I_1_15 net2 VDD pfet_03v3 L=1u W=20u nf=1
M13 v_1_15 v_1_15 net2 VDD pfet_03v3 L=1u W=20u nf=1
M14 net1 net1 VSS VSS nfet_03v3 L=1u W=10u nf=1
M15 v_1_15 net1 VSS VSS nfet_03v3 L=1u W=10u nf=1
M16 net4 V_pbias VDD VDD pfet_03v3 L=1u W=20u nf=1
M17 net3 V_I_0_7 net4 VDD pfet_03v3 L=1u W=20u nf=1
M18 v_0_7 v_0_7 net4 VDD pfet_03v3 L=1u W=20u nf=1
M19 net3 net3 VSS VSS nfet_03v3 L=1u W=10u nf=1
M20 v_0_7 net3 VSS VSS nfet_03v3 L=1u W=10u nf=1
M21 VDD net10 v_1_25 VSS nfet_03v3 L=1u W=100u nf=1
XR6 VSS v_1_25 VSS ppolyf_u_1k r_width=3e-6 r_length=30e-6
M22 V_pbias V_pbias VDD VDD pfet_03v3 L=1u W=10u nf=1
XR7 VSS V_pbias VSS ppolyf_u_1k r_width=3e-6 r_length=150e-6
M1 net6 V_I_1_65 net5 VSS nfet_03v3 L=2u W=10u nf=1
M2 net7 v_1_65 net5 VSS nfet_03v3 L=2u W=10u nf=1
M3 net5 V_nbias VSS VSS nfet_03v3 L=2u W=10u nf=1
M4 net6 net6 VDD VDD pfet_03v3 L=2u W=20u nf=1
M5 net7 net6 VDD VDD pfet_03v3 L=2u W=20u nf=1
M23 V_nbias V_nbias VSS VSS nfet_03v3 L=1u W=10u nf=1
XR8 V_nbias VDD VSS ppolyf_u_1k r_width=3e-6 r_length=150e-6
M6 net9 V_I_1_25 net8 VSS nfet_03v3 L=2u W=10u nf=1
M7 net10 v_1_25 net8 VSS nfet_03v3 L=2u W=10u nf=1
M8 net8 V_nbias VSS VSS nfet_03v3 L=2u W=10u nf=1
M9 net9 net9 VDD VDD pfet_03v3 L=2u W=20u nf=1
M10 net10 net9 VDD VDD pfet_03v3 L=2u W=20u nf=1
M24 VDD net7 v_1_65 VSS nfet_03v3 L=1u W=100u nf=1
XR9 VSS v_1_65 VSS ppolyf_u_1k r_width=3e-6 r_length=30e-6
.ends

